US05521167
3β-Acetylthio-androst-4-en-17-one (IV-a)
Diisopropyl azodicarboxylate (3.3 ml) was added to a solution of 4.5 g of triphenylphosphine in 90 ml of tetrahydrofuran at 0 ° C. and the mixture was stirred for 30'. To this mixture a solution of 2.1 g of 3α-hydroxy-androst-4-en-17-one (D'Incan E., Tetrahedron, 1982, 38, 1755) and 2.1 ml of thiolacetic acid in 90 ml of tetrahydrofuran was added dropwise and the residue was stirred for 1 hr at room temperature. The solvent was evaporated to dryness under reduced pressure and the crude product was purified by flash-chromatography (SiO2) using n-hexane/ethyl acetate 95/5 as eluant to give 1.4 g of the title compound (IV-a) as a white solid.

reactant | Diisopropyl azodicarboxylate | 3.3 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 4.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3α-hydroxy-androst-4-en-17-one | 2.1 g | O[C@H]1C=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O | C19H28O2
reactant | thiolacetic acid | 2.1 ml | S1C(=CC=C1)CC(=O)O | C6H6O2S
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | 3β-Acetylthio-androst-4-en-17-one | 1.4 g | C(C)(=O)S[C@@H]1C=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O | C21H30O2S
